US08378104B2
Step B: 7-bromo-6-iodo-benzothiazole (Title Compound)
To a suspension of 7-bromo-benzothiazol-6-ylamine (7.6 g, 33.3 mmol) in water (60 mL) was added concentrated hydrochloric acid (6 mL, 72 mmol). The mixture was cooled to 0° C. and stirred for 10 min. A cooled (0° C.) solution of sodium nitrite (5.0 g, 73 mmol) in water (10 mL) was added dropwise to the reaction mixture keeping the internal temperature below 5° C. The mixture was stirred for further 10 min. A solution of potassium iodide (12.1 g, 73 mmol) in water (15 mL) was added to the reaction mixture and was stirred vigorously for 10 min, and then water (200 mL) and 20% aqueous sodium thiosulfate solution (100 mL) were added. The solid formed was extracted with ethyl acetate (3×70 mL). The combined organic fractions were washed with water (100 mL), dried over anhydrous sodium sulfate, and concentrated. Purification of the residue by column chromatography (25% ethyl acetate:hexanes) afforded 0.3 g (5%) of the title compound, plus some impure title compound. The impure title compound was recrystallized 2× from 1:4 DCM:hexanes to afford a further 0.71 g (9%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 8.99 (s, 1H), 7.95 (d, J=8.4, 1H), 7.77 (d, J=8.4 Hz, 1H).

reactant | 7-bromo-benzothiazol-6-ylamine | 33.3 mmol, 7.6 g | BrC1=C(C=CC=2N=CSC21)N | C7H5BrN2S
reactant | hydrochloric acid | 72 mmol, 6 mL | Cl | ClH
reactant | sodium nitrite | 73 mmol, 5.0 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 73 mmol, 12.1 g | [I-].[K+]
reactant | sodium thiosulfate | 100 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 60 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | water | 15 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | 7-bromo-6-iodo-benzothiazole | 0.3 g, 5% | BrC1=C(C=CC=2N=CSC21)I | C7H3BrINS
